US07115597B2
2-(6-Morpholin-4-yl-pyrimidin-4-ylamino)-thiazole-5-carbonitrile (22-9)
6-Morpholin-4-yl-pyrimidin-4-ylamine (185 mg, 1.03 mmol) was stirred in 5 mL anhydrous THF under N2. Sodium hydride (82 mg, 60% dispersion, 2.05 mmol) was added and the reaction was warmed to 45° C. for 5 minutes. 2-chloro-thiazole-5-carbonitrile (208 mg, 1.44 mmol) was added and the reaction was heated to reflux. After 30 minutes added additional 2-chloro-thiazole-5-carbonitrile (85 mg, 0.59 mmol). After an additional 1 hour the reaction was cooled to room temperature, quenched with water and the THF was removed in vacuo. The mixture was neutralized with 1 M HCL and the resulting precipitate was filtered and washed with water. The solid was suspended in DMSO, filtered and washed with EtOAc to provide the title compound. 1H-NMR (400 MHz, CD3OD) 8.44 (1H, s), 7.95 (1H, s), 6.13 (1H, s), 3.81 (t, 4H, J=5.0 Hz), 3.63 (t, 4H, J=4.9 Hz). M+1=289.1.

reactant | 6-Morpholin-4-yl-pyrimidin-4-ylamine | 1.03 mmol, 185 mg | N1(CCOCC1)C1=CC(=NC=N1)N | C8H12N4O
reactant | Sodium hydride | 2.05 mmol, 82 mg | [H-].[Na+]
reactant | 2-chloro-thiazole-5-carbonitrile | 1.44 mmol, 208 mg | ClC=1SC(=CN1)C#N | C4HClN2S
reactant | 2-chloro-thiazole-5-carbonitrile | 0.59 mmol, 85 mg | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(6-Morpholin-4-yl-pyrimidin-4-ylamino)-thiazole-5-carbonitrile | N1(CCOCC1)C1=CC(=NC=N1)NC=1SC(=CN1)C#N | C12H12N6OS
